US04659708
A. 4-(3,4-Dichlorophenyl)-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazinehexanamide
A mixture of 4.3 g (0.012 mole) of 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide, 4.0 g (0.0128 mole) of 1-(3,4-dichlorophenyl)piperazine, hydrobromide and 2 ml (0.014 mole) of triethylamine in 100 ml of benzene was heated under reflux for 28 hr, allowed to cool, and filtered to remove the precipitated triethylamine hydrobromide. The filtrate was again heated under reflux for 18 hr, allowed to cool, washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated to dryness in vacuo. Chromatography over 200 g of silica gel with first ethyl acetate and then with 10% methanol in ethyl acetate afforded 4.4 g of the desired product, Rf(silica--10% methanol/ethyl acetate)=0.3. Recrystallization from 2-propanol gave 3.8 g (62%), mp 99°-100°.

reactant | 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide | 0.012 mole, 4.3 g | BrCCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C17H21BrN2O2
reactant | 1-(3,4-dichlorophenyl)piperazine, hydrobromide | 0.0128 mole, 4.0 g | Br.ClC=1C=C(C=CC1Cl)N1CCNCC1
reactant | triethylamine | 0.014 mole, 2 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4-(3,4-Dichlorophenyl)-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazinehexanamide | 4.4 g | ClC=1C=C(C=CC1Cl)N1CCN(CC1)CCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C27H32Cl2N4O2
